US08685970B2
A mixture of 3-(3-(trifluoromethoxy)phenyl)quinoxaline-5-carboxylic acid (100 mg, 0.30 mmol), 2-aminothiazole (30 mg, 0.30 mmol), HATU (171 mg, 0.45 mmol) and DIEA (116 mg, 0.9 mmol) in DMF (10 mL) was stirred at room temperature for 2 h. Water (20 mL) was added, and the resulting precipitate was collected by filtration and dried under vacuum to give N-(thiazol-2-yl)-3-(3-(trifluoromethoxy)phenyl)quinoxaline-5-carboxamide as a solid (115.5 mg, 92% yield). MS (ESI) calcd for C19H11F3N4O2S (m/z): 416.06. found: 417 [M+1].

reactant | 3-(3-(trifluoromethoxy)phenyl)quinoxaline-5-carboxylic acid | 0.30 mmol, 100 mg | FC(OC=1C=C(C=CC1)C=1C=NC=2C=CC=C(C2N1)C(=O)O)(F)F | C16H9F3N2O3
reactant | 2-aminothiazole | 0.30 mmol, 30 mg | NC=1SC=CN1 | C3H4N2S
reactant | HATU | 0.45 mmol, 171 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.9 mmol, 116 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | 20 mL | O | H2O
product | N-(thiazol-2-yl)-3-(3-(trifluoromethoxy)phenyl)quinoxaline-5-carboxamide | 115.5 mg, 92% yield | S1C(=NC=C1)NC(=O)C=1C=2N=C(C=NC2C=CC1)C1=CC(=CC=C1)OC(F)(F)F | C19H11F3N4O2S
